US05089513
A solution of 3-(naphth-2-ylmethoxy)phenyl 2-thiazolyl ketone (4.84 g; Note f. above) in tetrahydrofuran (5 ml) was added dropwise to a solution of isopropoxydimethylsilylmethylmagnesium chloride [prepared as described in J. Org. Chem., 1983, 48, 2120 from chloromethylisopropoxydimethylsilane (4.2 g) and magnesium powder (0.6 g) in tetrahydrofuran (7 ml)]. The mixture was stirred at ambient temperature for 1 hour, washed with saturated aqueous solution of ammonium chloride and then with a saturated aqueous solution of sodium chloride. The organic layer was separated, dried (Na2SO4) and evaporated to give 2-[1-hydroxy-2-isopropoxydimethylsilyl-1-(3-(naphth-2-ylmethoxy)phenyl)ethyl]thiazole as an oil.

reactant | 3-(naphth-2-ylmethoxy)phenyl 2-thiazolyl ketone | 4.84 g | S1C(=NC=C1)C(=O)C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1 | C21H15NO2S
reactant | isopropoxydimethylsilylmethylmagnesium chloride | 7 ml, 4.2 g | C(C)(C)O[Mg]C[SiH](C)C.[Cl-]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2-[1-hydroxy-2-isopropoxydimethylsilyl-1-(3-(naphth-2-ylmethoxy)phenyl)ethyl]thiazole | OC(C(OC(C)C)[SiH](C)C)(C1=CC(=CC=C1)OCC1=CC2=CC=CC=C2C=C1)C=1SC=CN1 | C27H31NO3SSi
